US07473694B2
Synthesis of tert-butyl (S)-3-{3-chloro-8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate
To a THF solution (2.0 mL) of tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate (12.5 mg, 0.0216 mmol), N-chlorosuccinimide (15.3 mg, 0.114 mmol) was added at room temperature and the mixture was stirred at room temperature for 1 hr. After the reaction, aqueous sodium thiosulfate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was evaporated to obtain the title compound.

reactant | tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate | 0.0216 mmol, 12.5 mg | C(C)(C)(C)OC(=O)N(C1=C2CCN(C2=NC2=CC=NN12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC | C31H42N6O5
reactant | N-chlorosuccinimide | 0.114 mmol, 15.3 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-3-{3-chloro-8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate | ClC=1C=NN2C(=C3CCN(C3=NC12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)N(C1=CC=C(C=C1)OCC)C(=O)OC(C)(C)C | C31H41ClN6O5
